US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}methanone
Following general procedure F, {6-bromo-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone (37 mg, 0.087 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (38 mg, 0.131 mmol) to afford the desired product (25 mg, 57%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.37 (s, 1H), 8.75 (s, 1H), 8.32 (dd, J=8.8, 2.1 Hz, 1H), 8.22 (d, J=2.1 Hz, 1H), 8.10 (d, J=8.8 Hz, 1H), 7.96 (dd, J=8.4, 2.6 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.47 (s, 2H), 4.58 (s, 2H), 2.95 (s, 6H), 2.83-2.74 (m, 1H), 1.19-1.07 (m, 4H); ESI MS m/z 507 [C27H24Cl2N4O2+H]+; HPLC 98.9% (AUC), tR=10.66 min.

reactant | {6-bromo-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.087 mmol, 37 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)CN(C)C | C21H21BrN4O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.131 mmol, 38 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}methanone | 25 mg, 57% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)CN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C27H24Cl2N4O2
